**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-MXGI
* Library Type:           Pspice
* Version:                rev24b
* Created/modified by:    Ella
* Date and Time:          9/27/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt MXGI_4020_74438440200016_0u16 1 2
Rp 1 2 202.082
Cp 1 2 4.634p
Rs 1 N3 0.0019
L1 N3 2 0.140516u
.ends MXGI_4020_74438440200016_0u16
*******
.subckt MXGI_4020_74438440200030_0u3 1 2
Rp 1 2 324.19
Cp 1 2 5.277p
Rs 1 N3 0.002
L1 N3 2 0.263802u
.ends MXGI_4020_74438440200030_0u3
*******
.subckt MXGI_4020_74438440200040_0u4 1 2
Rp 1 2 413.88
Cp 1 2 4.599p
Rs 1 N3 0.0038
L1 N3 2 0.372371u
.ends MXGI_4020_74438440200040_0u4
*******
.subckt MXGI_4020_74438440200065_0u65 1 2
Rp 1 2 600.555
Cp 1 2 6.277p
Rs 1 N3 0.0048
L1 N3 2 0.635459u
.ends MXGI_4020_74438440200065_0u65
*******
.subckt MXGI_4020_7443844020010_1u 1 2
Rp 1 2 862.274
Cp 1 2 7.493p
Rs 1 N3 0.0074
L1 N3 2 0.955225u
.ends MXGI_4020_7443844020010_1u
*******
.subckt MXGI_4020_7443844020012_1u2 1 2
Rp 1 2 1069
Cp 1 2 7.558p
Rs 1 N3 0.0084
L1 N3 2 1.197u
.ends MXGI_4020_7443844020012_1u2
*******
.subckt MXGI_4020_7443844020015_1u5 1 2
Rp 1 2 1155
Cp 1 2 7.265p
Rs 1 N3 0.01
L1 N3 2 1.399u
.ends MXGI_4020_7443844020015_1u5
*******
.subckt MXGI_4020_7443844020018_1u8 1 2
Rp 1 2 1536
Cp 1 2 8.232p
Rs 1 N3 0.0119
L1 N3 2 1.754u
.ends MXGI_4020_7443844020018_1u8
*******
.subckt MXGI_4020_7443844020022_2u2 1 2
Rp 1 2 1823
Cp 1 2 7.977p
Rs 1 N3 0.0161
L1 N3 2 2.287u
.ends MXGI_4020_7443844020022_2u2
*******
.subckt MXGI_4020_7443844020033_3u3 1 2
Rp 1 2 2594
Cp 1 2 9.09p
Rs 1 N3 0.0266
L1 N3 2 3.204u
.ends MXGI_4020_7443844020033_3u3
*******
.subckt MXGI_4020_7443844020047_4u7 1 2
Rp 1 2 3000
Cp 1 2 9.894p
Rs 1 N3 0.0413
L1 N3 2 4.181u
.ends MXGI_4020_7443844020047_4u7
*******
.subckt MXGI_5030_74438450300022_0u22 1 2
Rp 1 2 240.705
Cp 1 2 5.421p
Rs 1 N3 0.0015
L1 N3 2 0.1948u
.ends MXGI_5030_74438450300022_0u22
*******
.subckt MXGI_5030_74438450300047_0u47 1 2
Rp 1 2 466.287
Cp 1 2 7.872p
Rs 1 N3 0.0024
L1 N3 2 0.454048u
.ends MXGI_5030_74438450300047_0u47
*******
.subckt MXGI_5030_74438450300060_0u6 1 2
Rp 1 2 560.165
Cp 1 2 9.058p
Rs 1 N3 0.0028
L1 N3 2 0.521241u
.ends MXGI_5030_74438450300060_0u6
*******
.subckt MXGI_5030_74438450300082_0u82 1 2
Rp 1 2 768.537
Cp 1 2 10.732p
Rs 1 N3 0.0035
L1 N3 2 0.775289u
.ends MXGI_5030_74438450300082_0u82
*******
.subckt MXGI_5030_7443845030010_1u 1 2
Rp 1 2 887.259
Cp 1 2 10.073p
Rs 1 N3 0.0052
L1 N3 2 0.942481u
.ends MXGI_5030_7443845030010_1u
*******
.subckt MXGI_5030_7443845030012_1u2 1 2
Rp 1 2 1033
Cp 1 2 11.795p
Rs 1 N3 0.0045
L1 N3 2 1.186u
.ends MXGI_5030_7443845030012_1u2
*******
.subckt MXGI_5030_7443845030015_1u5 1 2
Rp 1 2 1296
Cp 1 2 13.02p
Rs 1 N3 0.0055
L1 N3 2 1.455u
.ends MXGI_5030_7443845030015_1u5
*******
.subckt MXGI_5030_7443845030022_2u2 1 2
Rp 1 2 1629
Cp 1 2 9.987p
Rs 1 N3 0.008
L1 N3 2 2.053u
.ends MXGI_5030_7443845030022_2u2
*******
.subckt MXGI_5030_7443845030033_3u3 1 2
Rp 1 2 2408
Cp 1 2 12.063p
Rs 1 N3 0.0127
L1 N3 2 3.429u
.ends MXGI_5030_7443845030033_3u3
*******
.subckt MXGI_5030_7443845030047_4u7 1 2
Rp 1 2 3239
Cp 1 2 12.212p
Rs 1 N3 0.0225
L1 N3 2 4.648u
.ends MXGI_5030_7443845030047_4u7
*******
.subckt MXGI_5030_7443845030056_5u6 1 2
Rp 1 2 3681
Cp 1 2 13.07p
Rs 1 N3 0.0245
L1 N3 2 5.433u
.ends MXGI_5030_7443845030056_5u6
*******
.subckt MXGI_5030_7443845030068_6u8 1 2
Rp 1 2 4591
Cp 1 2 12.543p
Rs 1 N3 0.0283
L1 N3 2 6.571u
.ends MXGI_5030_7443845030068_6u8
*******
.subckt MXGI_5030_7443845030082_8u2 1 2
Rp 1 2 5452
Cp 1 2 15.48p
Rs 1 N3 0.034
L1 N3 2 7.747u
.ends MXGI_5030_7443845030082_8u2
*******
.subckt MXGI_5030_7443845030100_10u 1 2
Rp 1 2 5928
Cp 1 2 17.155p
Rs 1 N3 0.0418
L1 N3 2 9.812u
.ends MXGI_5030_7443845030100_10u
*******
.subckt MXGI_5030_7443845030120_12u 1 2
Rp 1 2 7206
Cp 1 2 16.147p
Rs 1 N3 0.0523
L1 N3 2 12.034u
.ends MXGI_5030_7443845030120_12u
*******
.subckt MXGI_5030_7443845030150_15u 1 2
Rp 1 2 7639
Cp 1 2 17.046p
Rs 1 N3 0.0645
L1 N3 2 14.474u
.ends MXGI_5030_7443845030150_15u
*******
